US06194444B1
Production of 5-benzoyl-4-methyl-1,2,3-thiadiazole (Compound No. 9)
To 2.0 g (15 mimol) of thionyl chloride was added 0.50 g (3.5 mmol) of 4-methyl-1,2,3-thiadiazole-5-carboxylic acid. After heating the mixture with stirring for 2 hours, the thionyl chloride was distilled off under reduced pressure, and the residue was added to a solution of 1.8 g (15 mmol) of aluminum chloride in 20 ml benzene and made to react with heating for 3 hours. After the reaction was completed, the reaction mixture was poured into ice water, the objective product was extracted with ethyl acetate, the organic layer was ashed with a saturated aqueous solution of sodium chloride and dried, the solvent was distilled off under educed pressure, and the residue was purified by silica gel column chromatography using 4:1 mixture of n-hexane and ethyl acetate. Thus, 0.69 g of the objective compound was obtained.

reactant | thionyl chloride | 2.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methyl-1,2,3-thiadiazole-5-carboxylic acid | 3.5 mmol, 0.50 g | CC=1N=NSC1C(=O)O | C4H4N2O2S
reactant | aluminum chloride | 15 mmol, 1.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 5-benzoyl-4-methyl-1,2,3-thiadiazole | 0.69 g, Yield: 97% | C(C1=CC=CC=C1)(=O)C1=C(N=NS1)C | C10H8N2OS
